US08017637B2
51 μl (0.32 mmol; 0.5 equivalent) of N-(3-aminopropyl)-N-methylpropane-1,3-diamine is added to 200 mg (0.65 mmol) of 5-methoxy-2-(morpholin-4-ylcarbonyl)-1,3-benzothiazole-4,7-dione in solution in 15 ml of ethanol. The reaction mixture is maintained under stirring at 85° C. for 2 hours, then the solvent is evaporated off under reduced pressure and the expected product is purified by chromatography on a silica column (eluent: dichloromethane/methanol mixture 95/5) then recrystallized from a mixture of acetone and ethyl ether and 110 mg (yield=24%) of 5.5′-[(methylimino)bis(propane-3,1-diylimino)]bis[2-(morpholin-4-ylcarbonyl)-1,3-benzothiazole-4,7-dione] is obtained in the form of a red powder. Melting point=207-208° C.

reactant | N-(3-aminopropyl)-N-methylpropane-1,3-diamine | 0.32 mmol, 51 μl, 0.5 equivalent | NCCCN(CCCN)C | C7H19N3
reactant | 5-methoxy-2-(morpholin-4-ylcarbonyl)-1,3-benzothiazole-4,7-dione | 0.65 mmol, 200 mg | COC1=CC(C2=C(N=C(S2)C(=O)N2CCOCC2)C1=O)=O | C13H12N2O5S
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 5.5′-[(methylimino)bis(propane-3,1-diylimino)]bis[2-(morpholin-4-ylcarbonyl)-1,3-benzothiazole-4,7-dione] | 110 mg, yield=24% | CN(CCCNC1=CC(C2=C(N=C(S2)C(=O)N2CCOCC2)C1=O)=O)CCCNC1=CC(C2=C(N=C(S2)C(=O)N2CCOCC2)C1=O)=O | C31H35N7O8S2
